US08471005B2
3-Morpholin-4-yl-phenylamine (122.3 mg, 0.6860 mmol), N-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide (125.0 mg, 0.3430 mmol) and N,N-Diisopropylethylamine (0.1792 mL, 1.029 mmol) were dissolved in 1-Methoxy-2-propanol (1.25 mL, 12.8 mmol). The reaction was irradiated at 300 watts, 200° C. for 20 minutes or until HPLC showed consumption of starting material. The mixture was then reduced under nitrogen and the product was isolated and purified by Gilson prep HPLC to afford 35.51 mg of N-Methyl-N-{2-[2-(3-morpholin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-methanesulfonamide as a lyophilized powder. (M+H)=479.1. 1H NMR (400 MHz, DMSO, d6) δ 9.26 (s, 1H), 8.97 (s, 1H), 7.73 (m, 1H), 7.66 (m, 1H), 7.55 (m, 2H), 7.48 (m, 1H), 7.02 (t, 1H, J=8.09 Hz), 6.93 (d, 1H, J=4.64 Hz), 6.87 (m, 2H), 6.45 (m, 1H), 3.57 (m, 4H), 3.08 (s, 3H), 2.71 (s, 3H), 2.67 (m, 4H).

reactant | 3-Morpholin-4-yl-phenylamine | 0.6860 mmol, 122.3 mg | N1(CCOCC1)C=1C=C(C=CC1)N | C10H14N2O
reactant | N-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | 0.3430 mmol, 125.0 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C15H16N4O3S2
reactant | N,N-Diisopropylethylamine | 1.029 mmol, 0.1792 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-Methoxy-2-propanol | 12.8 mmol, 1.25 mL | COCC(C)O | C4H10O2
product | N-Methyl-N-{2-[2-(3-morpholin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-methanesulfonamide | 35.51 mg | CN(S(=O)(=O)C)C1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC(=CC=C2)N2CCOCC2 | C24H26N6O3S
